US06794395B1
3-(Z)-[1-anilino-1-(3-aminomethyl-phenyl)-methylidene]-5,6-dimethoxy-2-indolinone
0.8 g of 3-(Z)-[1-anilino-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone are dissolved in 50 ml of methanolic ammonia and 30 ml of methylene chloride are added. After the addition of 500 mg of Raney nickel the mixture is hydrogenated for 2 hours at ambient temperature at a pressure of 50 psi. After the end of the reaction the catalyst is filtered off and the filtrate is concentrated by evaporation. The residue is separated over a silica gel column with methylene chloride/methanol (5:1) as eluant. The product is suspended in 3 ml of dioxane, 0.4 ml of 1N hydrochloric acid are added and the solution formed is concentrated by evaporation after 10 minutes' stirring at ambient temperature. The residue thus obtained is triturated with ether, suction filtered and dried in vacuo at 80° C.

reactant | 3-(Z)-[1-anilino-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone | 0.8 g | N(C1=CC=CC=C1)\C(\C1=CC(=CC=C1)C#N)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C24H19N3O3
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ammonia | 50 ml | N | H3N
catalyst | Raney nickel | 500 mg | [Ni] | Ni
product | 3-(Z)-[1-anilino-1-(3-aminomethyl-phenyl)-methylidene]-5,6-dimethoxy-2-indolinone | N(C1=CC=CC=C1)\C(\C1=CC(=CC=C1)CN)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C24H23N3O3
